US09382197B2
To a vial containing tert-butyl 4-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]benzoate (0.065 g, 0.20 mmol) was added hydrochloric acid (2.0 mL, 8.0 mmol, 4.0 M in 1,4-dioxane). This vial was capped and heated at 60° C. for 2 h, and then completely evaporated to afford (R)-4-(1-aminoethyl)benzoic acid hydrochloride as a white solid. LC-MS: (FA) ES+ 166.

reactant | tert-butyl 4-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]benzoate | 0.20 mmol, 0.065 g | C(C)(C)(C)[S@](=O)N[C@H](C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H27NO3S
reactant | hydrochloric acid | 8.0 mmol, 4.0 M, 2.0 mL | Cl | ClH
product | (R)-4-(1-aminoethyl)benzoic acid hydrochloride | Cl.N[C@H](C)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C9H11NO2.ClH/c1-6(10)7-2-4-8(5-3-7)9(11)12;/h2-6H,10H2,1H3,(H,11,12);1H/t6-;/m1./s1
